US05684020
1-[(Cyclopenta[c]thien-5-yl)methyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine
Prepared as described in Example 9, starting from (cyclopenta[c]thien-5-yl)carboxylic acid (Preparation 7) and 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine. The title compound melts at 156°-158° C.

reactant | (cyclopenta[c]thien-5-yl)carboxylic acid | C1SC=C2C1=CC(=C2)C(=O)O | C8H6O2S
reactant | 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | COC=1C(=CC2=C(CCO2)C1)N1CCNCC1 | C13H18N2O2
product | 1-[(Cyclopenta[c]thien-5-yl)methyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | C1SC=C2C1=CC(=C2)CN2CCN(CC2)C2=CC1=C(CCO1)C=C2OC | C21H24N2O2S
